US07723384B2
b) 1-(4-{4-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-yl}butyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione
1-(4-Chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione (3.29 mmol, 1.75 g, 70%), 2-tert-butyl-4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine (3.56 mmol, 1.03 g; preparation according to WO 99/02503) and triethylamine (13.17 mmol, 1.33 g) in dimethylformamide (100 ml) were stirred at 100° C. for 12 h. Afterward, ethyl acetate was added and the mixture was washed twice with water. The combined organic phases were dried over Na2SO4, filtered and concentrated under reduced pressure. The oily residue was purified by chromatography on silica gel (eluent: 95:5 v/v dichloromethane:methanol); yield 0.42 g.

reactant | 1-(4-Chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | 3.29 mmol, 1.75 g | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
reactant | 2-tert-butyl-4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine | 3.56 mmol, 1.03 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(F)(F)F | C13H19F3N4
reactant | triethylamine | 13.17 mmol, 1.33 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(4-{4-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-yl}butyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCC(C2=C1C=CC=C2)=O)=O)C(F)(F)F | C27H34F3N5O2
